US05068334
1-Methyl-4-phenyl-7,8-dihydro-2,5(1H,6H)-quinolinedione
Prepared from 4-phenyl-5,6,7,8-tetrahydro-cumarin- 5-one and methanolic methylamine at ambient temperature.

reactant | 4-phenyl-5,6,7,8-tetrahydro-cumarin- 5-one | C1(=CC=CC=C1)C1=CC(OC=2CCCC(C12)=O)=O | C15H12O3
reactant | methylamine | CN | CH5N
product | 1-Methyl-4-phenyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | CN1C(C=C(C=2C(CCCC12)=O)C1=CC=CC=C1)=O | C16H15NO2
